US07005538B1
3,5-dibromo-4-(3-bromobenzyloxy)benzoic acid (0.17 mmol) was coupled with 3-nitrobenzenesulphonamide (0.89 mmol) using the procedure described in Example 31. Purification on column (silica gel, chloroform/methanol 9:1) gave 60 mg (54%) of N-[3,5-dibromo-4-(3-bromobenzyloxy)benzoyl]-3-nitrobenzenesulphonamide.

reactant | 3,5-dibromo-4-(3-bromobenzyloxy)benzoic acid | 0.17 mmol | BrC=1C=C(C(=O)O)C=C(C1OCC1=CC(=CC=C1)Br)Br | C14H9Br3O3
reactant | 3-nitrobenzenesulphonamide | 0.89 mmol | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N | C6H6N2O4S
product | N-[3,5-dibromo-4-(3-bromobenzyloxy)benzoyl]-3-nitrobenzenesulphonamide | 60 mg, 54% | BrC=1C=C(C(=O)NS(=O)(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=C(C1OCC1=CC(=CC=C1)Br)Br | C20H13Br3N2O6S
